US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 3-hydroxy-2-phenyl-propylamine and DIEA to give 2-(3-hydroxy-2-phenyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 390 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 3-hydroxy-2-phenyl-propylamine | OCC(CN)C1=CC=CC=C1 | C9H13NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(3-hydroxy-2-phenyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | OCC(CNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C22H19N3O2S
